US04166818
Cyclohexane carboxylic acid chloride (9.92 g, 0.068 mol) was added slowly to a solution of 5-methylamino-3-methyl-1,2,4-thiadiazole (7.0 g, 0.054 mol) in dry benzene containing triethylamine (6.87 g, 0.068 mol) and the mixture heated under reflux for 11/2 hours, cooled and washed with 2 N hydrochloric acid, saturated solution sodium hydrogen carbonate and water; dried over magnesium sulphate, filtered and evaporated down to yield yellow oil which crystallised upon standing. This was recrystallised twice from petroleum ether 60°-80° C. to yield off-white crystals of N-(3-methyl-1,2,4-thiadiazol-5-yl)-N-methylcyclohexane carboxamide. Yield 8.23 g, (63.8%), m.p. 96° C.

reactant | Cyclohexane carboxylic acid chloride | 0.068 mol, 9.92 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 5-methylamino-3-methyl-1,2,4-thiadiazole | 0.054 mol, 7.0 g | CNC1=NC(=NS1)C | C4H7N3S
reactant | triethylamine | 0.068 mol, 6.87 g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(3-methyl-1,2,4-thiadiazol-5-yl)-N-methylcyclohexane carboxamide | CC1=NSC(=N1)N(C(=O)C1CCCCC1)C | C11H17N3OS
